US07973026B2
Step 3: methyl 6-cyclohexyl-5-(2-hydroxyphenyl)-4-(methoxymethyl)-3-methyl-4H-thieno[3,2-b]pyrrole-2-carboxylate
Methyl 5-[2-(benzyloxy)phenyl]-6-cyclohexyl-3-formyl-4-(methoxymethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate was dissolved in EtOAc and the solution was degassed. Pd/C was added and after degassing again hydrogen atmosphere (60 psi) was applied. After hydrogenating for 2 days the catalyst was filtered off and all volatiles were evaporated i. vac. An off-white solid was obtained (89%). MS (ES+) m/z 414 (M+H)+.

reactant | Methyl 5-[2-(benzyloxy)phenyl]-6-cyclohexyl-3-formyl-4-(methoxymethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1=C(C2=C(N1COC)C(=C(S2)C(=O)OC)C=O)C2CCCCC2 | C30H31NO5S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 6-cyclohexyl-5-(2-hydroxyphenyl)-4-(methoxymethyl)-3-methyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | C1(CCCCC1)C=1C2=C(N(C1C1=C(C=CC=C1)O)COC)C(=C(S2)C(=O)OC)C | C23H27NO4S
